US04567187
2.0 Grams of 6-{1-oxo-3-[4-(2-ethoxyphenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril monohydrochloride and 0.4 g of palladium black were suspended in 100 ml of water and the suspension was catalytically hydrogenated under 3 atmospheric pressure of hydrogen gas at 80° C. Then 5 ml of concentrated hydrochloric acid was added to the reaction mixture and further catalytically hydrogenated. The catalyst was removed by filtration and to the filtrate thus obtained was neutralized by adding 10N-NaOH aqueous solution, then extracted with chloroform. The chloroform was removed by distillation and the residue thus obtained was purified by column chromatography. Recrystallized from ether to obtain 6-{3-[4-(2-ethoxyphenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril in colorless prism-like crystals. Yield: 0.8 g.

reactant | 6-{1-oxo-3-[4-(2-ethoxyphenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril monohydrochloride | Cl.O=C(CCN1CCN(CC1)C1=C(C=CC=C1)OCC)C=1C=C2CCC(NC2=CC1)=O
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
catalyst | palladium black | 0.4 g | [Pd] | Pd
product | 6-{3-[4-(2-ethoxyphenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril | C(C)OC1=C(C=CC=C1)N1CCN(CC1)CCCC=1C=C2CCC(NC2=CC1)=O | C24H31N3O2
